### PR TITLE
[Merged by Bors] - feat: lemmas about equality of `EqvGen`

### PR DESCRIPTION
**Pull request by eric-wieser**
I've named the lemmas about `Subrelation` with `_le_`, so that if/when #30526 lands, the names can be kept.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
!downstream-reports

File: Mathlib/Logic/Relation.lean [hunk 1]
```diff
@@ -802,6 +806,73 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
   | symm a b _ ih => exact EqvGen.symm _ _ ih
   | trans a b c _ _ hab hbc => exact EqvGen.trans _ _ _ hab hbc
 
+instance : Std.Refl (EqvGen r) where refl := .refl
+instance : IsTrans α (EqvGen r) where trans := .trans
+instance : Std.Symm (EqvGen r) where symm := .symm
```
Comment (SnirBroshi) [inline Mathlib/Logic/Relation.lean]:
```suggestion
instance : IsEquiv α (EqvGen r) where
  refl := .refl
  trans := .trans
  symm := .symm
```

File: Mathlib/Logic/Relation.lean [hunk 2]
```diff
@@ -802,6 +806,73 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
...
+
+lemma eqvGen_le {r r' : α → α → Prop} (hr : Equivalence r') (h : Subrelation r r') :
```
Comment (SnirBroshi) [inline Mathlib/Logic/Relation.lean]:
```suggestion
lemma eqvGen_le {r r' : α → α → Prop} [IsEquiv α r'] (h : Subrelation r r') :
```

File: Mathlib/Logic/Relation.lean [hunk 3]
```diff
@@ -802,6 +806,73 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
...
+  | _, _, .trans _ _ _ hxy hyz => .trans _ _ _ (eqvGen_mono h hxy) (eqvGen_mono h hyz)
+  | _, _, .rel _ _ hab => .rel _ _ (h hab)
+
+lemma reflGen_le_eqvGen : Subrelation (ReflGen r) (EqvGen r)
+  |  _, _, .refl => .refl _
+  |  _, _, .single h => .rel _ _ h
+
+lemma symmGen_le_eqvGen : Subrelation (SymmGen r) (EqvGen r)
+  | _, _, .inl h => .rel _ _ h
+  | _, _, .inr h => Std.Symm.symm _ _ (.rel _ _ h)
```
Comment (SnirBroshi) [inline Mathlib/Logic/Relation.lean]:
```suggestion
  | _, _, .inr h => symm <| .rel _ _ h
```

File: Mathlib/Logic/Relation.lean [hunk 4]
```diff
@@ -802,6 +806,73 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
...
+
+lemma transGen_le_eqvGen : Subrelation (TransGen r) (EqvGen r) := by
+  intro _ _ h
+  induction h using TransGen.trans_induction_on with
+  | trans _ _ h1 h2 => exact IsTrans.trans _ _ _ h1 h2
```
Comment (SnirBroshi) [inline Mathlib/Logic/Relation.lean]:
```suggestion
  | trans _ _ h1 h2 => exact _root_.trans h1 h2
```

File: Mathlib/Logic/Relation.lean [hunk 5]
```diff
@@ -802,6 +806,73 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
...
+  | single h => exact .rel _ _ h
+
+lemma reflTransGen_le_eqvGen : Subrelation (ReflTransGen r) (EqvGen r) := by
+  intro _ _ h
+  induction h using ReflTransGen.trans_induction_on with
+  | refl => exact .refl _
+  | trans _ _ h1 h2 => exact IsTrans.trans _ _ _ h1 h2
```
Comment (SnirBroshi) [inline Mathlib/Logic/Relation.lean]:
```suggestion
  | trans _ _ h1 h2 => exact _root_.trans h1 h2
```

File: Mathlib/Logic/Relation.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Logic/Relation.lean]: Nice, done

**Comment by eric-wieser** [comment]
> !downstream-reports

!explain-what-bhavik-expected

File: Mathlib/Logic/Relation.lean [hunk 6]
```diff
@@ -802,6 +806,68 @@ theorem mono {r p : α → α → Prop} (hrp : ∀ a b, r a b → p a b) (h : Eq
...
+lemma eqvGen_symmGen : EqvGen (SymmGen r) = EqvGen r :=
+  Subrelation.antisymm
+    (eqvGen_le (symmGen_le_eqvGen _)) (eqvGen_mono .inl)
+
+@[simp, grind =]
+lemma eqvGen_reflTransGen : EqvGen (ReflTransGen r) = EqvGen r :=
+  Subrelation.antisymm
+    (eqvGen_le (reflTransGen_le_eqvGen _)) (eqvGen_mono .single)
+
+@[grind =]
```
Comment (b-mehta) [inline Mathlib/Logic/Relation.lean:863]: This tag looks dubious to me, the others are reasonable though

**Review by b-mehta — COMMENTED** [review]
bors d+

**Comment by b-mehta** [comment]
> > !downstream-reports
> 
> !explain-what-bhavik-expected

The report about if CSLib builds against this PR, I just forgot how to do that. @marcelolynch might know?

**Comment by marcelolynch** [comment]
@b-mehta @eric-wieser :)

!downstream-check cslib

**Comment by b-mehta** [comment]
!downstream-check cslib

File: Mathlib/Logic/Relation.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Logic/Relation.lean:863]: This matches
```
@[grind =]
lemma reflTransGen_eq_transGen [Std.Refl r] : ReflTransGen r = TransGen r := by
```
above, so I plan to keep it as is.

Comment (eric-wieser) [reply Mathlib/Logic/Relation.lean:863]: bors merge

**Comment by chenson2018** [comment]
> I've named the lemmas about `Subrelation` with `_le_`, so that if/when #30526 lands, the names can be kept.

@eric-wieser Since #30526 was merged before this, are you planning to immediately follow up in changing the new uses of `Subrelation` to `≤`?

Edit: This is straightforward, so I went ahead and opened #41450
